US06667311B2
To a solution of 4-phenylbenzoic acid (5.46 g, 27.6 mmol) in methylene chloride (66 mL) was added 2 drops of DMF and oxalyl chloride (2.80 mL, 30.3 mmol). The reaction mixture was stirred overnight and added to a stirred solution of ice and ammonium hydroxide. The resulting precipitate was filtered, washed with methylene chloride, and triturated with water. The product was collected by filtration and dried in vacuo to yield 4-phenylbenzamide (3.88 g, 71%).

reactant | 4-phenylbenzoic acid | 27.6 mmol, 5.46 g | C1(=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O2
reactant | oxalyl chloride | 30.3 mmol, 2.80 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | methylene chloride | 66 mL | C(Cl)Cl | CH2Cl2
catalyst | DMF | 2 drops | CN(C)C=O | C3H7NO
product | 4-phenylbenzamide | 3.88 g, 71% | C1(=CC=CC=C1)C1=CC=C(C(=O)N)C=C1 | C13H11NO
